US20010047099A1
A. Preparation of Methyl 3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylate N-oxide
To a dry 3-neck round bottom flask was added 60% NaH (0.432 g, 10.81 mmol), dry THF (30 mL) and 3,5-dichlorophenol (1.76 g, 10.81 mmol). The mixture was stirred until evolution of H2 (g) ceased. Methyl 3,6-dichloropyridine-2-carboxylate N-oxide (2.0 g, 9.00 mmol) was added in one portion and stirred at RT for 3 hr, diluted with ethyl acetate and 100 mL of water. The aqueous phase was extracted with ethyl acetate (2×200 mL). The combined extracts were dried (MgSO4) and concentrated to give 2.40 g of white solid.

reactant | NaH | 10.81 mmol, 0.432 g | [H-].[Na+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | 3,5-dichlorophenol | 10.81 mmol, 1.76 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | Methyl 3,6-dichloropyridine-2-carboxylate N-oxide | 9.00 mmol, 2.0 g | ClC1=C([N+](=C(C=C1)Cl)[O-])C(=O)OC | C7H5Cl2NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | Methyl 3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylate N-oxide | 2.40 g | ClC1=C([N+](=C(C=C1)OC1=CC(=CC(=C1)Cl)Cl)[O-])C(=O)OC | C13H8Cl3NO4
